US05136090
A mixture of pyridine (30 ml) and conc. hydrochloric acid (30 ml) was heated at about 180° C. for 30 mins. A known compound, 2,2'-dimethoxy-5,5'-bis (3-carboxypropyl) biphenyl (1.2 g) was added thereto and the mixture was heated at about 180° C. with stirring overnight. Upon cooling, the reaction mixture was poured into ice water and the mixture was extracted with ethyl acetate under acidic conditions with hydrochloric acid. The ethyl acetate layer was washed with aqueous saturated sodium chloride, dried by adding anhydrous magnesium sulfate, then the solvent was evaporated off under reduced pressure. A residue was re-precipitated by adding ethyl acetate-toluene to obtain 2,2'-dihydroxy-5,5'-bis (3-carboxypropyl) biphenyl (1.01 g, 91%) as a white powder. 1H-NMR (CD3OD) δ (ppm): 1.8-2.1 (4H, m, 2CH2), 2.32 (4H, t, 2CH2), 2.63 (4H, t, 2CH2), 6.84 (2 H, d, arom-H), 6.9-7.2 (4H, m, arom-H) MS (FAB): 357 (M-H)-

reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | 2,2'-dimethoxy-5,5'-bis (3-carboxypropyl) biphenyl | 1.2 g | COC1=C(C=C(C=C1)CCCC(=O)O)C1=C(C=CC(=C1)CCCC(=O)O)OC | C22H26O6
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2,2'-dihydroxy-5,5'-bis (3-carboxypropyl) biphenyl | 1.01 g, 91% | OC1=C(C=C(C=C1)CCCC(=O)O)C1=C(C=CC(=C1)CCCC(=O)O)O | C20H22O6
